US09102664B2
b) Preparation of (S)-2-(benzyloxy)propanal (Formula-15)
A mixture of (S)-methyl 2-(benzyloxy)propanoate compound of formula-14 obtained in example-11 (100 g) and toluene (200 ml) was cooled to −75 to 70° C. under nitrogen atmosphere. DIBAL (500 ml) was added to the reaction mixture and stirred for 3 hours at the same temperature. After completion of the reaction, the reaction mixture was quenched with methanol and 30% hydrochloric acid was added to it at −75 to −70° C. Temperature of reaction mixture was raised to 25-30° C. Both organic and aqueous layers were separated and the aqueous layer was extracted with toluene. Both organic layers were combined, washed with 5% sodium bicarbonate and 10% sodium chloride solution. The organic layer containing title compound is carried for the next step without distillation.

reactant | (S)-methyl 2-(benzyloxy)propanoate | C(C1=CC=CC=C1)O[C@H](C(=O)OC)C | C11H14O3
reactant | DIBAL | 500 ml | CC(C)C[AlH]CC(C)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(benzyloxy)propanal | C(C1=CC=CC=C1)O[C@H](C=O)C | C10H12O2
